US04515954
A suspension of 5.0 g of 9,10-anthracenedicarboxaldehyde and 7.8 g of 2-hydrazino-2-imidazoline dihydrochloride in 75 ml of n-propanol is refluxed for 2 hours. The mixture is cooled and the solid is collected giving bis(2-imidazolin-2-ylhydrazone) of 9,10-anthracenedicarboxaldehyde, dihydrochloride.

reactant | 9,10-anthracenedicarboxaldehyde | 5.0 g | C1=CC=CC2=C(C3=CC=CC=C3C(=C12)C=O)C=O | C16H10O2
reactant | 2-hydrazino-2-imidazoline dihydrochloride | 7.8 g | Cl.Cl.N(N)C=1NCCN1
solvent | n-propanol | 75 ml | C(CC)O | C3H8O
product | 9,10-anthracenedicarboxaldehyde, dihydrochloride | Cl.Cl.C1=CC=CC2=C(C3=CC=CC=C3C(=C12)C=O)C=O | InChI=1S/C16H10O2.2ClH/c17-9-15-11-5-1-2-6-12(11)16(10-18)14-8-4-3-7-13(14)15;;/h1-10H;2*1H
